// Path statistics: a: 14; b: 7; c: 7; d: 7; e: 7; f: 7; 
.subckt NSP_38 GND VCC Y a b c d e f 
.model nmos NMOS level=1 VTO=0.4 KP=120u
.model pmos PMOS level=1 VTO=-0.4 KP=40u

M0 Y d pN4 VCC PMOS W=2u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M1 pN3 b pN1 VCC PMOS W=2u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M2 pN1 c VCC VCC PMOS W=2u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M3 Y a pN1 VCC PMOS W=2u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M4 pN3 e pN2 VCC PMOS W=2u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M5 pN4 f pN3 VCC PMOS W=2u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M6 pN2 a VCC VCC PMOS W=2u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M7 nN2 a GND GND NMOS W=0.75u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M8 Y a nN1 GND NMOS W=0.75u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M9 nN1 c GND GND NMOS W=0.75u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M10 nN1 d nN2 GND NMOS W=0.75u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M11 Y b nN2 GND NMOS W=0.75u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M12 nN1 f nN2 GND NMOS W=0.75u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M13 Y e nN1 GND NMOS W=0.75u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
.end
